US07985755B2
4-(2-Cyano-3-fluorophenoxymethyl)piperidine-1-carboxylic acid tert-butyl ester (920 mg, 2.8 mmol) was dissolved in 5 mL of dioxane, and 3 mL of 4M HCl in dioxane was added over 1 minute at room temperature. Reaction stirred for 5 hrs and white precipitate was collected by filtration. Solids rinsed once with cold ether and dried to afford 2-fluoro-6-(piperidin-1-ylmethoxy)benzonitrile hydrochloride. (500 mg; 66% yield).

reactant | 4-(2-Cyano-3-fluorophenoxymethyl)piperidine-1-carboxylic acid tert-butyl ester | 2.8 mmol, 920 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C(=CC=C1)F)C#N | C18H23FN2O3
reactant | HCl | 4M, 3 mL | Cl | ClH
reactant | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 2-fluoro-6-(piperidin-1-ylmethoxy)benzonitrile hydrochloride | 66% yield | Cl.FC1=C(C#N)C(=CC=C1)OCN1CCCCC1 | InChI=1S/C13H15FN2O.ClH/c14-12-5-4-6-13(11(12)9-15)17-10-16-7-2-1-3-8-16;/h4-6H,1-3,7-8,10H2;1H
